US05304641
p-Methoxybenzyl 7β-phenoxyacetylamino-3-methylenecepham-4-carboxylate
To a solution of 48 ml of SmI2 in THF (0.1M), a solution of 1.1 g of p-methoxybenzyl 7β-phenoxyacetylamino-3chloromethyl -3-cephem-4carboxylate in 100 ml of dry THF, was dropwise added at -20° C. The resulting mixture was allowed to warm to room temperature in 0.5 hours. Water was added, and the mixture stirred for further 0.2 hours at room temperature. After the usual work-up and column chromatography, the title product was isolated in 65% yield.

reactant | p-methoxybenzyl 7β-phenoxyacetylamino-3chloromethyl -3-cephem-4carboxylate | 1.1 g | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CCl)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C24H23ClN2O6S
reactant | Water | O | H2O
solvent | THF | 0.1M | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | p-Methoxybenzyl 7β-phenoxyacetylamino-3-methylenecepham-4-carboxylate | 65% yield | O(C1=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(C(CS2)=C)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C24H24N2O6S
